US04546193
3-Nitrophenylhydrazine hydrochloride (50 g, 0.26 mol) and cyclooctanone (32.2 g, 0.25 mol) were refluxed in 400 mL of glacial acetic acid for 6 hours. The solution was allowed to cool and the separated solid was filtered, washed with water and recrystallized from absolute ethanol to afford 20 g (31% yield) of 6,7,8,9,10,11-hexahydro-1-nitro-5H-cyclooct[b]indole; m.p. 189°-191° C.

reactant | 3-Nitrophenylhydrazine hydrochloride | 0.26 mol, 50 g | Cl.[N+](=O)([O-])C=1C=C(C=CC1)NN
reactant | cyclooctanone | 0.25 mol, 32.2 g | C1(CCCCCCC1)=O | C8H14O
solvent | acetic acid | 400 mL | C(C)(=O)O | C2H4O2
product | 6,7,8,9,10,11-hexahydro-1-nitro-5H-cyclooct[b]indole | 20 g, 31% yield | [N+](=O)([O-])C1=C2C3=C(NC2=CC=C1)CCCCCC3 | C14H16N2O2
